US05360604
Synthesis of Ethyl 2-(3,5-bis(acetylamino)-2,4,6-triiodobenzoyloxy)butyrate
To 500 mL of dry N,N-dimethylformamide was added 159 g (0.250 mol) sodium diatrizoate and 54.5 g (0.280 mol) of ethyl 2-bromobutyrate. The mixture was heated on a steam bath for 20 h, cooled to room temperature and poured into 3 L of dilute ammonium hydroxide. The solid was filtered, washing with water, and air-dried. The solid was further purified by crystallization from 50% aqueous ethanol (after treatment with decolorizing carbon) affording two crops which were dried at 100° C. overnight to afford 121 g (66%) of a white powder, m.p. 288°-290° C. (dec.). Analysis for C17H19I3N2O6 : Calculated/Found: C, 28.05/28.36/H, 2.63/2.55; I, 52.3/52.3.

reactant | sodium diatrizoate | 0.250 mol, 159 g | CC(=O)NC1=C(C(=C(C(=C1I)NC(=O)C)I)C(=O)[O-])I.[Na+]
reactant | ethyl 2-bromobutyrate | 0.280 mol, 54.5 g | BrC(C(=O)OCC)CC | C6H11BrO2
reactant | ammonium hydroxide | 3 L | [OH-].[NH4+]
solvent | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | Ethyl 2-(3,5-bis(acetylamino)-2,4,6-triiodobenzoyloxy)butyrate | 121 g, 66% | C(C)(=O)NC=1C(=C(C(=O)OC(C(=O)OCC)CC)C(=C(C1I)NC(C)=O)I)I | C17H19I3N2O6
